US09290476B2
Pyridin-3-yl(thiazol-5-yl)methanone
A n-BuLi solution (2.37 mL, 3.80 mmol, 1.6 M solution in hexane) was slowly added to a −78° C. to a solution of 3-bromopyridine (0.600 g, 3.80 mmol) in Et2O (10 mL). After addition, stirring was continued for an additional 40 minutes and N-methoxy-N-methylthiazole-5-carboxamide (0.752 g, 4.37 mmol, Intermediate 11: step a) dissolved in Et2O (10 mL) was slowly added. The mixture was stirred at −78° C. for 10 minutes then warmed to 0° C. and stirred for 1 hour. The cold solution was quenched with saturated aqueous NH4Cl and warmed to room temperature. H2O was added and layers were separated. The aqueous layer was extracted with EtOAc and the combined organic extracts washed with brine, dried over Na2SO4, filtered, evaporated in vacuo and chromatographed (CH2Cl2/EtOAc) to provide the title compound as a yellow solid (precipitated from Et2O and dried under reduced pressure).

reactant | n-BuLi | 3.80 mmol, 1.6 M, 2.37 mL | [Li]CCCC
reactant | 3-bromopyridine | 3.80 mmol, 0.600 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-methoxy-N-methylthiazole-5-carboxamide | CON(C(=O)C1=CN=CS1)C | C6H8N2O2S
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | Pyridin-3-yl(thiazol-5-yl)methanone | N1=CC(=CC=C1)C(=O)C1=CN=CS1 | C9H6N2OS
